US06936602B1
In a mixture of water:ethanol toluene (1:1:10, v/v, 42.0 ml) were dissolved 4-ethoxy-3-fluorophenyl borate (754 mg) and methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1305 mg). To the solution was added potassium carbonate (1132 mg), and the mixture was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (158 mg), and the mixture was heated to reflux under argon atmosphere for 10 hours. The mixture was diluted with ethyl acetate, and washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (75 g, hexane:ethyl acetate=4:1) to give methyl 1-(t-butoxycarbonyl)-7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate as yellow amorphous. The obtained methyl 1-(t-butoxycarbonyl)-7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate was dissolved in ethyl acetate (80 ml). To the solution was added 1N hydrochloric acid (15 ml) at room temperature, and the mixture was stirred at 100° C. for 1 hour and neutralized with 1N sodium hydroxide and saturated sodium hydrogen carbonate solution. To the mixture was added ethyl acetate, and the separated organic layer was washed with saturated sodium hydrogen carbonate solution, water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (50 g, hexane:ethyl acetate=9:1→4:1→2:1) to give methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1007 mg, 86%) as yellow crystals.

reactant | methyl 1-(t-butoxycarbonyl)-7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC(=C(C=C2)OCC)F)C(=O)OC | C25H28FNO5
reactant | hydrochloric acid | 1N, 15 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1007 mg, 86% | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1)F | C20H20FNO3
